US04350520
11.2 g (0.1 mol) of imidazole-2-carboxylic acid [which could be prepared, for example, in accordance with the method of J. Am. Chem. Soc., 71, 383 (1949)] were stirred under reflux with 100 ml of thionyl chloride for 5 hours. After cooling the mixture, the solid was filtered off, washed with a little petroleum ether and dried. 5H, 10H-diimidazo[1,2-a:1',2'-d]pyrazine-5,10-dione was thus obtained in virtually quantitative yield in the form of a yellow powder. The substance still did not melt at 290° C. It could be sublimed into yellow crystals at 200°-250° C./0.01 mm Hg without decomposition. IR (KBr): 3137, 1735, 1522, 1445, 1387, 1331, 1274, 1161, 1059, 1018, 810, 800, 748, 699 and 651 cm-1.

reactant | imidazole-2-carboxylic acid | 0.1 mol, 11.2 g | N1C(=NC=C1)C(=O)O | C4H4N2O2
solvent | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 10H-diimidazo[1,2-a:1',2'-d]pyrazine-5,10-dione | quantitative yield | N=1C=CN2C1C(N1C(C2=O)=NC=C1)=O | C8H4N4O2
